US03975542
The procedure of Example 1 was repeated, except that the 1-ethynyl-4-(2-fluorophenyl)benzene was replaced with 1.5 g of 1-ethynyl-4-(4-fluorophenyl)benzene, the amount of catalyst was reduced to 0.5 g, the sulfuric acid was omitted, initial hydrogen pressure was 48 psig, and the reduction was allowed to proceed overnight. Evaporation of the benzene left a solid which was recrystallized from hexane to give 1-ethyl-4-(4-fluorophenyl)benzene, mp 60°-63°. The following elemental analysis was obtained:

reactant | 1-ethynyl-4-(2-fluorophenyl)benzene | C(#C)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C14H9F
reactant | 1-ethynyl-4-(4-fluorophenyl)benzene | 1.5 g | C(#C)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C14H9F
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
product | 1-ethyl-4-(4-fluorophenyl)benzene | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C14H13F
